US05240925
To a flask under a nitrogen atmosphere was added 9.24 g. (0.04 mole) of 2-(4-chlorophenyl)-3-(2-furyl)acrylonitrile in 55 ml. of a 10 to 1 mixture of THF and DMF. While stirring at room temperature, 1.44 g. (0.04 mole) of sodium borohydride in 25 ml. of ethanol was added and the resulting mixture stirred for an additional 18 hours. A mixture of 175 ml. of 6 to 1 methylene chloride and water was added to the reaction while stirring at room temperature. The methylene chloride solution was washed with 10% aqueous hydrochloric acid, dried, and concentrated to give 8.24 g. (90.4% yield) of 2-(4-chlorophenyl)-3-(2-furyl)propionitrile as a thick oil.

reactant | 2-(4-chlorophenyl)-3-(2-furyl)acrylonitrile | 0.04 mole | ClC1=CC=C(C=C1)C(C#N)=CC=1OC=CC1 | C13H8ClNO
reactant | THF | C1CCOC1 | C4H8O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium borohydride | 0.04 mole | [BH4-].[Na+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-chlorophenyl)-3-(2-furyl)propionitrile | 90.4% yield | ClC1=CC=C(C=C1)C(C#N)CC=1OC=CC1 | C13H10ClNO
